US08247560B2
Step 6: synthesis of (S)-toluene-4-sulfonic acid methylcarbamoyl-phenyl-methyl ester (compound 6)
Alternatively, to the solution of mandelic acid amide in dichloromethane is added 50% aqueous caustic soda at RT. Subsequently p-toluene sulfonic acid chloride (1.0 equivalent) is added as a solution in dichloromethane keeping the temperature below 25° C. The biphasic reaction mixture is stirred at RT until a satisfactory conversion is reached, phases are separated, the aqueous phase is extracted once with dichloromethane and then the combined organic phases are washed with water. After a solvent switch to toluene the solution is concentrated, cooled to 5° C. and the precipitate filtered. The crystals are washed with cooled toluene and dried in vacuo at 40° C.

reactant | mandelic acid amide | C(C(O)C1=CC=CC=C1)(=O)N | C8H9NO2
reactant | caustic soda | [OH-].[Na+]
reactant | p-toluene sulfonic acid chloride | 1.0 equivalent | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | dichloromethane | ClCCl | CH2Cl2
product | (S)-toluene-4-sulfonic acid methylcarbamoyl-phenyl-methyl ester | CNC(=O)[C@H](C1=CC=CC=C1)OS(=O)(=O)C1=CC=C(C=C1)C | C16H17NO4S
